US05246951
3-(Hydroxymethyl)benzoselenazolinone
2 grams (0.01 mol) of benzoselenazoline, 2 cm3 (0.02 mol) of aqueous formaldehyde solution and 2 cm3 of methanol are introduced into a ground-necked flask. The mixture is brought to reflux two hours. After cooling to 40° C. 20 cm3 of water are added. The mixture is allowed to cool and the product is drained, washed with water, dried and recrystallized in cyclohexane.

reactant | benzoselenazoline | 0.01 mol, 2 grams | [Se]1C=NC2=C1C=CC=C2 | C7H5NSe
reactant | formaldehyde | 0.02 mol, 2 cm3 | C=O | CH2O
reactant | methanol | 2 cm3 | CO | CH4O
solvent | water | 20 cm3 | O | H2O
product | 3-(Hydroxymethyl)benzoselenazolinone | OCN1C[Se](C2=C1C=CC=C2)=O | C8H9NO2Se
